US09403835B2
Step 2: (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-(2-{2-[(2-hydroxy-ethyl)-methyl-amino]-ethoxy}-phenyl)-methanone
A mixture of [2-(2-{[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-methyl-amino}-ethoxy)-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone (40 mg; 0.07 mmol; 1 eq.) and a 1M solution of tetrabutyl-ammonium fluoride in THF (0.09 mL; 0.09 mmol; 1.2 eq.) was stirred at room temperature for 3 hours. The solution was diluted with EA, washed with water, dried over magnesium sulfate and concentrated in vacuo. Purification by column chromatography (EA to 20% MeOH in EA) afforded the title compound (12 mg, 38%) as a colourless oil. HPLC (max plot) 95.8%, Rt 2.56 min. UPLC/MS: (MS+) 444.3 ([M+H]+).

reactant | [2-(2-{[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-methyl-amino}-ethoxy)-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone | 0.07 mmol, 40 mg, 1 eq. | C(C)(C)(C)[Si](OCCN(CCOC1=C(C=CC=C1)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1)C)(C)C | C28H40ClN5O3Si
reactant | tetrabutyl-ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 0.09 mmol, 0.09 mL, 1.2 eq. | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-(2-{2-[(2-hydroxy-ethyl)-methyl-amino]-ethoxy}-phenyl)-methanone | 12 mg, 38% | ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=CC=C3)OCCN(C)CCO)C | C22H26ClN5O3
